US06982274B2
A total of 18.7 g of [5-(dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanone was dissolved in 100 ml of tetrahydrofuran, and 5 ml of 5 N hydrochloric acid was added, followed by stirring at room temperature for 1 hour. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 15.8 g of 4-fluoro-3-(3-fluorobenzoyl)benzaldehyde as a colorless oil. A total of 13.8 g of this compound was dissolved in 50 ml of dimethyl sulfoxide, and a solution of 15.2 g of sodium chlorite in 50 ml water was added dropwise over 1 hour under ice-cooling. To the reaction mixture was added diluted hydrochloric acid, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was filtered using diisopropyl ether, to give 12.9 g of 4-fluoro-3-(3-fluorobenzoyl)benzoic acid as a colorless solid. A total of 11.1 g of this compound was dissolved in 50 ml of N,N-dimethylformamide, and 5.8 g of potassium carbonate and 2.9 ml of methyl iodide were added, followed by stirring at room temperature for 12 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:15), to give 11.5 g of the title compound as a colorless oil.

reactant | [5-(dimethoxymethyl)-2-fluorophenyl](3-fluorophenyl)methanone | 18.7 g | COC(C=1C=CC(=C(C1)C(=O)C1=CC(=CC=C1)F)F)OC | C16H14F2O3
reactant | hydrochloric acid | 5 N, 5 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-fluoro-3-(3-fluorobenzoyl)benzaldehyde | 15.8 g | FC1=C(C=C(C=O)C=C1)C(C1=CC(=CC=C1)F)=O | C14H8F2O2
